US07906517B2
Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-6-methyl-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (20 mg) is dissolved in ethanol (2 ml), and thereto is added a 1N-aqueous sodium hydroxide solution (0.5 ml) and the mixture is stirred at room temperature for 1 hour. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-6-methyl-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid (21 mg). The resulting carboxylic acid is dissolved in ethanol (1 ml) and thereto is added 1N-aqueous sodium hydroxide solution (28 μl) and the reaction solution is concentrated under reduced pressure to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-6-methyl-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid sodium salt (19 mg). MS (m/z): 742 [M−Na]−

reactant | Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-6-methyl-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 20 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C(=CC(=C2)C(F)(F)F)C)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C38H38F9N3O4
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-6-methyl-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid | 21 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C(=CC(=C2)C(F)(F)F)C)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C36H34F9N3O4
